US09216964B2
To a solution of 2-(3-methyl-2,2′-bipyridin-6-yl)isoindoline-1,3-dione (129 mg, 0.41 mmol) in ethanol (2 ml) is added a couple of drops of ethylenediamine at room temperature. The solution is stirred at room temperature for 30 minutes. The solvents are removed by rotary evaporation and the crude product is purified by silica gel flash chromatography, eluted with 3% methanol in dichloromethane to afford 3-methyl-2,2′-bipyridin-6-amine as an off-white solid. LC-MS m/z: 186.1 (M+1).

reactant | 2-(3-methyl-2,2′-bipyridin-6-yl)isoindoline-1,3-dione | 0.41 mmol, 129 mg | CC=1C(=NC(=CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=NC=CC=C1 | C19H13N3O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | ethylenediamine | a couple of drops | C(CN)N | C2H8N2
product | 3-methyl-2,2′-bipyridin-6-amine | CC=1C(=NC(=CC1)N)C1=NC=CC=C1 | C11H11N3
